US04638067
1-Ethyl-6-fluoro-1,4-dihydro-7-[4-[(methylamino)methyl]-2-thiazolyl]-4-oxo-3-quinolinecarboxylic acid
A solution of 0.40 g 7-(4-chloromethyl-2-thiazolyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 100 ml 40% aqueous methylamine was stirred at room temperature overnight and evaporated to dryness. The resulting solid was crystallized from water to afford 0.33 g of the title compound, mp 216°-218° C. (dec).

reactant | 7-(4-chloromethyl-2-thiazolyl)-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.40 g | ClCC=1N=C(SC1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C16H12ClFN2O3S
reactant | methylamine | 100 ml | CN | CH5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[4-[(methylamino)methyl]-2-thiazolyl]-4-oxo-3-quinolinecarboxylic acid | 0.33 g | C(C)N1C=C(C(C2=CC(=C(C=C12)C=1SC=C(N1)CNC)F)=O)C(=O)O | C17H16FN3O3S
